US05021478
1-Methoxy-2,2,6,6-tetramethylpiperidin-4-yl 3-(2H-Benzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamate
A mixture of 30.0 grams (84.9 mmol) of methyl 3-(2H-benzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamate, 19.1 grams (102 mmol) of 4-hydroxy-1-methoxy-2,2,6,6-tetramethylpiperidine, and 200 ml of xylene is heated at reflux in a round-bottomed flask equipped with a fractionating column and an adjustable still head. Approximately 25 ml of wet xylene is distilled from the reaction mixture. The reaction mixture is then cooled to 100° C., treated with 1.4 gram of lithium amide, and diluted with 100 ml of xylene. The mixture is heated at reflux for sixteen hours while methanol is removed by fractional distillation. The reaction mixture is diluted with 200 ml of toluene, and washed successively with 1N hydrochloric acid (200 ml) and saturated sodium bicarbonate solution (300 ml). Solids are removed by filtration, and the filtrate is dried over anhydrous magnesium sulfate and then concentrated to obtain a brown solid. The crude product is passed through a layer of silica gel (2:1 heptane:ethyl acetate). The eluent is evaporated to give a solid which is recrystallized from isopropanol to afford 24.5 grams (57% yield) of the title compound as a white solid melting at 135°-137° C.

reactant | methyl 3-(2H-benzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamate | 84.9 mmol, 30.0 grams | N=1N(N=C2C1C=CC=C2)C=2C=C(CCC(=O)OC)C=C(C2O)C(C)(C)C | C20H23N3O3
reactant | 4-hydroxy-1-methoxy-2,2,6,6-tetramethylpiperidine | 102 mmol, 19.1 grams | OC1CC(N(C(C1)(C)C)OC)(C)C | C10H21NO2
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-Methoxy-2,2,6,6-tetramethylpiperidin-4-yl 3-(2H-Benzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamate | 24.5 grams, 57% yield | N=1N(N=C2C1C=CC=C2)C=2C=C(CCC(=O)OC1CC(N(C(C1)(C)C)OC)(C)C)C=C(C2O)C(C)(C)C | C29H40N4O4
